US09227918B2
To a solution of methyl 4-(2-aminoethyl)benzoate in 30 mL of DCM at 0° C. was added 1.10 mL (6.31 mmol) of diisopropylethylamine (DIEA) followed by 0.850 mL (6.11 mmol) of trifluoroacetic anhydride. The reaction was allowed to warm to 22° C. and stirred for 2 h. The reaction was washed with 30 mL of saturated NaHCO3. The aqueous solution was back-extracted with 30 mL of DCM and the combined organic extracts were dried (Na2SO4) and evaporated to give methyl 4-(2-(2,2,2-trifluoroacetamido)ethyl)benzoate as a solid. The material was further purified by flash chromatography on silica gel, eluting first with hexane and then gradually increasing to 20% ethyl acetate/hexane.

reactant | methyl 4-(2-aminoethyl)benzoate | NCCC1=CC=C(C(=O)OC)C=C1 | C10H13NO2
reactant | diisopropylethylamine | 6.31 mmol, 1.10 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | trifluoroacetic anhydride | 6.11 mmol, 0.850 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | DCM | 30 mL | C(Cl)Cl | CH2Cl2
product | methyl 4-(2-(2,2,2-trifluoroacetamido)ethyl)benzoate | FC(C(=O)NCCC1=CC=C(C(=O)OC)C=C1)(F)F | C12H12F3NO3
